Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
multiple episodes of syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ G6P2 @ ___ presenting as a transfer from ___ 
for multiple episodes of syncope. Pt states has been feeling 
presyncopal x 1 month, most with standing but sometimes also 
when she is sitting and resting. These episodes are usually 
associated with palpitations and shortness of breath. She then 
experienced a syncopal episode last ___ while cooking in 
the kitchen. She had an unwitnessed fall. Her son came in and 
found her. She came to within minutes. While unwitnessed 
initially, her son did not report convulsions. She did not lose 
or bladder or bowels or have tongue biting. She again 
experienced a syncopal episode on ___ while walking in her 
bathroom. Again, she came to within minutes and did not 
experience any loss of bowel or bladder or tongue biting. 

She does report some shortness of breath, worse with lying down. 
She occasionally wakes up with shortness of breath overnight. 
She denies chest pain, headache, nausea, vomiting. 

She is without OB complaints. Denies ctx, VB, LOF. +FM.

She presented to ___ where she underwent a full evaluation 
including the following -->
 
- UA neg glucose, trace ketones, neg blood, 30 prot, trace ___
- TSH 1.16

136 | 105 | 6 < 191
3.5 | 21  | 0.5

Mag 1.6 Ph 3.3 Ca 8.7

14.3> 10.6/30.8<429

Trop neg (<0.02)

Normal EKG x 2

She was transferred to the ___ ED where she again had a normal 
EKG (normal sinus rhythm, no ST changes, normal intervals). 
Vitals upon arrival to the ED were as follows: T 97.6 HR 91 RR 
24 BP 114/59 O2 99% RA.

 
Past Medical History:
Prenatal course: All per pt report, as did not come with any
prenatal records
___ ___ by Ultrasound
Blood type pending (per patient is A pos)
No prenatal labs available
Normal FFS per pt
GDMA1, recently diagnosed, working on diet control. ___ have
ranged fasting 115, postprandial 140-150.
Normal fetal echo (given history of hypoplastic left heart in
prior pregnancy)

POBHx: G6P2
- SVD ___, full term, GDMA1, 7#13
- SVD ___, full term, 8#6oz
- SAb x 2
- TAB x 1 at 22w for hypoplastic left heart

Pgynhx: denies

PMH: denies

PSH: denies

 
Social History:
denies t/e/d
 
Physical Exam:
PE on admission
Vitals: T 97.9 HR 82 BP 128/58 RR 16 O2 96%RA
General: NARD, pleasant, comfortale
CV: RRR
Lungs: CTAB
Abd: Soft, gravid, nontender
Ext: trace pedal edema bilaterally
SVE: Deferred

FHT: 140 baseline, mod var +accels no decels
Toco: Flat

TAUS: Cephalic, BPP ___ EFW 1547g, AFI 18

PE on discharge
AVSS
NAD, AOx3
CTAB
RRR
Abd:soft, NT, gravid
Ext: wwp

 
Brief Hospital Course:
___ G6P2 who was a transfer from CHA and admitted to ___ 
for recurrent syncope. Her electrolytes, EKG, utox and trop were 
negative. She had an echo on ___ which was normal. For her 
GDMA, she continued to have fasting and 1h postpartum 
fingersticks which were normal. Cardiology was consulted who 
thought that her fainting episodes were likely vasovagal and 
they recommended compression stockings. She was discharged home 
in stable condition with outpatient follow up scheduled. 
 
Medications on Admission:
PNV
 
Discharge Medications:
1. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vasovagal episodes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for evaluation of recurrent fainting episodes. 
Your work-up included lab work, EKG, and echo which were normal. 
Cardiology saw you and thought that your fainting episodes were 
likely vasovagal. They recommended wearing compression 
stockings. One of the cardiology fellows will get in touch with 
you with instructions on how to get the compression stockings. 
The team feels it's safe for you to go home.

Please call the office for: 
- Worsening, painful or regular contractions
- Vaginal bleeding
- Leakage of water or concern that your water broke
- Abdominal pain
- Nausea/vomiting
- Fever, chills
- Decreased fetal movement
- Other concerns

 
Followup Instructions:
___